US09403810B2
Step 3: 2-Cyclohexyl-1,5-dimethyl-4-nitro-1H-pyrazol-3(2H)-one
To trifluoroacetic acid (1940 mL) cooled to −15° C. was added 2-cyclohexyl-1,5-dimethyl-1H-pyrazol-3(2H)-one (535 g, 2231 mmol) and the reaction mixture was cooled to 0° C. Nitric acid 90% (211 mL, 4461 mmol) was added dropwise over 90 minutes maintaining the temperature below 15° C. and the reaction mixture was stirred for 30 minutes at 10° C. The resulting mixture was slowly poured into ice water (8 L) and stirred for 30 minutes. The solid was collected by filtration and washed with water (2×2 L), saturated sodium bicarbonate solution (1×2 L), water (2×2 L), TBME (3×2 L) and heptane (2×2 L). The isolated solid was dried in the vacuum oven to afford the title compound;

reactant | 2-cyclohexyl-1,5-dimethyl-1H-pyrazol-3(2H)-one | 2231 mmol, 535 g | C1(CCCCC1)N1N(C(=CC1=O)C)C | C11H18N2O
reactant | Nitric acid | 4461 mmol, 211 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 1940 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Cyclohexyl-1,5-dimethyl-4-nitro-1H-pyrazol-3(2H)-one | C1(CCCCC1)N1N(C(=C(C1=O)[N+](=O)[O-])C)C | C11H17N3O3
